US07863310B2
1-Isobutyl-2-methyl-6-(1-cyclohexyl-4-phenyl-1H-imidazol-5-yl)-1H-benzimidazole
Heat a mixture of 1-(cyclohexyl)-4-phenyl-5-(3-(isobutylamino)-4-aminophenyl)-1H-imidazole (103 mg, 0.26 mmol) and 3 mL triethylorthoformate at 120° C. for 3 hours. Cool to room temperature and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 2:1 ethyl acetate:hexanes to provide the title compound (45%).

reactant | 1-(cyclohexyl)-4-phenyl-5-(3-(isobutylamino)-4-aminophenyl)-1H-imidazole | 0.26 mmol, 103 mg | C1(CCCCC1)N1C=NC(=C1C1=CC(=C(C=C1)N)NCC(C)C)C1=CC=CC=C1 | C25H32N4
reactant | triethylorthoformate | 3 mL | C(C)OC(OCC)OCC | C7H16O3
product | 1-Isobutyl-2-methyl-6-(1-cyclohexyl-4-phenyl-1H-imidazol-5-yl)-1H-benzimidazole | 45% | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C2=C(N=CN2C2CCCCC2)C2=CC=CC=C2)C | C27H32N4
